US04362728
A solution of 4-amino-2-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]pyrimidine (0.75 g.) in 33% w/v methylamine in ethanol (15 ml.) was left at room temperature for 18 hours. The solution was concentrated to 5 ml., cooled in ice, and the crystalline precipitate collected to give 4-amino-2-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]pyrimidine (0.52 g.), m.p. 189°-190°.

reactant | 4-amino-2-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]pyrimidine | 0.75 g | NC1=NC(=NC=C1)CSCCNC(SC)=NC#N | C10H14N6S2
reactant | methylamine | CN | CH5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-amino-2-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]pyrimidine | 0.52 g | NC1=NC(=NC=C1)CSCCNC(=NC#N)NC | C10H15N7S
